US04666697
(A) Preparation of the polyacrolein-deferoxamine condensation product as a non-radioctive carrier
To a solution of polyacrolein (125 mg) in dimethylsulfoxide (2.5 ml), a solution of deferoxamine (105 mg) in dimethylsulfoxide (2.5 ml) was added, and the resultant mixture was agitated at room temperature for 3 hours to produce a solution containing the polyacrolein-deferixamine condensation product, which is useful as a non-radioactive carrier.

reactant | polyacrolein | 125 mg | C=CC=O | C3H4O
reactant | deferoxamine | 105 mg | CC(=O)N(CCCCCNC(=O)CCC(=O)N(CCCCCNC(=O)CCC(=O)N(CCCCCN)O)O)O | C25H48N6O8
solvent | dimethylsulfoxide | 2.5 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | polyacrolein deferoxamine | C=CC=O.CC(=O)N(CCCCCNC(=O)CCC(=O)N(CCCCCNC(=O)CCC(=O)N(CCCCCN)O)O)O | InChI=1S/C25H48N6O8.C3H4O/c1-21(32)29(37)18-9-3-6-16-27-22(33)12-14-25(36)31(39)20-10-4-7-17-28-23(34)11-13-24(35)30(38)19-8-2-5-15-26;1-2-3-4/h37-39H,2-20,26H2,1H3,(H,27,33)(H,28,34);2-3H,1H2
